US07371757B2
(e) 5-{2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-4-[(2-hydroxyethyl)amino]-6-oxo-6,7-dihydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carbonitrile
To a solution of 5-{2-[(6-chloroquinolin-4-yl)methyl]-7-cyclopropylmethyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carbonitrile (0.42 g) in pyridine (5 mL) were added 4-chlorophenyl phosphorodichloridate (0.5 mL) and 3-nitro-1,2,4 triazole (0.15 g). After heating (Tb=50° C.) for 3 h, the reaction was diluted with ethyl acetate. The organic solution was washed with saturated NaHCO3 and brine, dried (Na2SO4), filtered and concentrated. The residue was dissolved in THF (10 mL) and ethanolamine (1.0 mL). After 3 h, the reaction was concentrated. This residue was purified by flash chromatography using a FlashMaster™ yielding 0.22 g, ES (M+H)+=529.

reactant | 5-{2-[(6-chloroquinolin-4-yl)methyl]-7-cyclopropylmethyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carbonitrile | 0.42 g | ClC=1C=C2C(=CC=NC2=CC1)CN1N=C2N(C(NC(C2=C1C1=CC(=CN1C)C#N)=O)=O)CC1CC1 | C25H20ClN7O2
reactant | 4-chlorophenyl phosphorodichloridate | 0.5 mL | P(OC1=CC=C(C=C1)Cl)(=O)(Cl)Cl | C6H4Cl3O2P
reactant | 3-nitro-1,2,4 triazole | 0.15 g | [N+](=O)([O-])C1=NNC=N1 | C2H2N4O2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-{2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-4-[(2-hydroxyethyl)amino]-6-oxo-6,7-dihydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carbonitrile | ClC=1C=C2C(=CC=NC2=CC1)CN1N=C2N(C(N=C(C2=C1C1=CC(=CN1C)C#N)NCCO)=O)CC1CC1 | C27H25ClN8O2
